C0 (net22 VSS) capacitor
M3 (net18 net19 net22 VSS) nmos4
M2 (net19 net19 net18 VSS) nmos4
M1 (net18 net18 VSS VSS) nmos4
M0 (IB1 net22 VSS VSS) nmos4
R0 (VDD net19) resistor